US04788010
(D) α-[(1-Oxo-3,3-dicyclohexylpropyl)amino]-2,5-dimethoxybenzenepropionic acid, 1,1-dimethylethyl ester
The following procedure was carried out under argon. A stirred solution of 4.1 ml (29.2 mmol) of diisopropylamine and 4.3 ml (28.5 mmol) of tetramethylenediamine in 75 ml of tetrahydrofuran was cooled to -75° C. and treated portionwise with 18 ml (28.4 mmol) of 1.6M n-butyllithium in hexane. After stirring for 20 minutes, α-[(1-oxo-3,3-dicyclohexylpropyl)amino]acetic acid, 1,1-dimethylethyl ester (5.0 g; 14.2 mmol) in 30 ml of tetrahydrofuran was added dropwise at -75° C. The color changed from nearly colorless to yellow. Stirring at -75° C. was continued for 1 hour, after which the gelatinous dianion solution was treated portionwise with 2.65 g (14.2 mmol) of 2,5-dimethoxybenzyl chloride in 10 ml of tetrahydrofuran. After stirring at -75° C. for 1 hour, the mixture was allowed to warm gradually to room temperature. The color lightened to pale yellow. After stirring overnight, the mixture was poured with stirring into 100 ml of crushed ice and 100 ml of 10% potassium bisulfate, ethyl acetate (50 ml) was added, the mixture shaken, and the layers separated. Since the aqueous phase was still basic, additional 10% potassium bisulfate was added (2×10 ml), followed by shaking, until the pH was approximately 6. The aqueous layer was then extracted with ethyl acetate (3×50 ml) and the combined organic layers washed with 40 ml each of 5% potassium bisulfate, water, and saturated sodium chloride solution. After drying (magnesium sulfate), the solvents were evaporated to give 7.6 g of a light yellow, mostly solid residue. The latter was ground in a mortar under 40 ml of ether, kept 3 hours at room temperature, cooled for 0.75 hours, and the colorless solid filtered, washed with 20 ml of cold ether, and air-dried (3.4 g; melting point 108°-111° C. s, 103° C.). Following crystallization from 45 ml of isopropyl ether, the product weighed 2.9 g, melting point 114°-116° C.

reactant | diisopropylamine | 29.2 mmol, 4.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | tetramethylenediamine | 28.5 mmol, 4.3 ml | NCCCCN | C4H12N2
reactant | n-butyllithium | 28.4 mmol, 1.6M, 18 ml | C(CCC)[Li]
reactant | α-[(1-oxo-3,3-dicyclohexylpropyl)amino]acetic acid, 1,1-dimethylethyl ester | 14.2 mmol, 5.0 g | O=C(CC(C1CCCCC1)C1CCCCC1)NCC(=O)OC(C)(C)C | C21H37NO3
reactant | 2,5-dimethoxybenzyl chloride | 14.2 mmol, 2.65 g | COC1=C(CCl)C=C(C=C1)OC | C9H11ClO2
reactant | potassium bisulfate | 100 ml | S([O-])(O)(=O)=O.[K+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | α-[(1-Oxo-3,3-dicyclohexylpropyl)amino]-2,5-dimethoxybenzenepropionic acid, 1,1-dimethylethyl ester | O=C(CC(C1CCCCC1)C1CCCCC1)NC(C(=O)OC(C)(C)C)CC1=C(C=CC(=C1)OC)OC | C30H47NO5
